US05360800
5-Ethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one
2,3,4,5-Tetrahydro-1H-pyrido[4,3-b]indol-1-one (931 mg) was treated with sodium hydride (60% dispersion in oil; 400 mg) and was then stirred with ethyl iodide (10% v/v solution in DMF; 4 ml) to give the title compound (758 mg), m.p. 203°-204.5°.

reactant | 2,3,4,5-Tetrahydro-1H-pyrido[4,3-b]indol-1-one | 931 mg | C1(NCCC=2NC=3C=CC=CC3C21)=O | C11H10N2O
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | ethyl iodide | 4 ml | C(C)I | C2H5I
product | 5-Ethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 758 mg | C(C)N1C2=C(C=3C=CC=CC13)C(NCC2)=O | C13H14N2O
